US08486940B2
3-(1H-benzo[d]imidazol-5-yl)-2-phenylthiazolidin-4-one
The compound was synthesized starting from 5-aminobenzimidazole (0.133 g, 1.0 mmol), benzaldehyde (0.306 mL, 3.0 mmol), mercapto acetic acid (0.276 g, 2.0 mmol), piperidine, according to method 9 step A. yield: 118 mg (40%), MS m/z: 296.3 (M+H)+, HPLC [A]): rt 5.72 min (96%)

reactant | 5-aminobenzimidazole | 1.0 mmol, 0.133 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | benzaldehyde | 3.0 mmol, 0.306 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | mercapto acetic acid | 2.0 mmol, 0.276 g | SCC(=O)O | C2H4O2S
reactant | piperidine | N1CCCCC1 | C5H11N
product | 3-(1H-benzo[d]imidazol-5-yl)-2-phenylthiazolidin-4-one | N1C=NC2=C1C=CC(=C2)N2C(SCC2=O)C2=CC=CC=C2 | C16H13N3OS
